### PR TITLE
[Merged by Bors] - feat: add IsPrimitiveRoot.pow_sub_pow_eq_prod_sub_mul

### PR DESCRIPTION
**Pull request by riccardobrasca**
From flt-regular.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean [hunk 1]
```diff
@@ -582,13 +582,69 @@ end Order
...
+  · rw [mem_coe, Polynomial.mem_nthRootsFinset hpos] at ha
+    simp only [Set.mem_image, mem_coe]
+    have : NeZero n := ⟨hpos.ne'⟩
+    obtain ⟨i, -, hζ⟩ := h'.eq_pow_of_pow_eq_one ha
+    refine ⟨ζ ^ i, ?_, by rwa [map_pow]⟩
+    rw [Polynomial.mem_nthRootsFinset hpos, ← pow_mul, mul_comm, pow_mul, h.pow_eq_one, one_pow]
+
+/-- If there is a primitive `n`th root of unity in `R` and `n` is odd, then
+`X ^ n + Y ^ n = ∏ (X + μ Y)`, where `μ` varies over the `n`-th roots of unity. -/
+theorem _root_.IsPrimitiveRoot.pow_add_pow_eq_prod_add_mul (hodd : n % 2 = 1)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean:641]: Nit: why not use `Odd n`?

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean:641]: I don't know, but good idea.

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean [hunk 2]
```diff
@@ -582,13 +582,66 @@ end Order
...
+  have := congr_arg (eval (x/y)) <| X_pow_sub_one_eq_prod hpos h
+  rw [eval_sub, eval_pow, eval_one, eval_X, eval_prod] at this
+  simp_rw [eval_sub, eval_X, eval_C] at this
+  apply_fun (· * y ^ n) at this
+  rw [sub_mul, one_mul, div_pow, div_mul_cancel₀ _ (pow_ne_zero n hy)] at this
+  nth_rw 4 [← h.card_nthRootsFinset] at this
+  rw [mul_comm, pow_card_mul_prod] at this
+  convert this using 2
+  field_simp [hy]
+  rw [mul_comm]
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean:612]: I'm a bit worried if we do a proof by `have` and then a lot of rewrites, it will be very hard to fix when something breaks, since it's not so obvious what state the proof is supposed to be in at each line.

How about something like:
```suggestion
  convert congr_arg (eval (x/y) · * y ^ card (nthRootsFinset n K)) <| X_pow_sub_one_eq_prod hpos h
    using 1
  · simp [sub_mul, div_pow, hy, h.card_nthRootsFinset]
  · simp [eval_prod, prod_mul_pow_card, sub_mul, hy]
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean [hunk 3]
```diff
@@ -582,13 +582,66 @@ end Order
...
+  let K := FractionRing R
+  apply NoZeroSMulDivisors.algebraMap_injective R K
+  rw [map_sub, map_pow, map_pow, map_prod]
+  simp_rw [map_sub, map_mul]
+  have h' : IsPrimitiveRoot (algebraMap R K ζ) n :=
+    h.map_of_injective <| NoZeroSMulDivisors.algebraMap_injective R K
+  rw [h'.pow_sub_pow_eq_prod_sub_mul_field _ _ hpos]
+  symm
+  refine prod_nbij (algebraMap R K) (fun a ha ↦ ?_) (fun a _ b _ H ↦
+    NoZeroSMulDivisors.algebraMap_injective R K H) (fun a ha ↦ ?_) (fun _ _ ↦ rfl)
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean:629]: I feel like this line and everything below should be easier, since it's mathematically not so interesting, but I can't find any good suggestions.

**Review by Vierkantor — APPROVED** [review]
bors d+

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean:612]: Nice!

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean]: I've golfed it a little. It now uses the new `mem_nthRootsFinset_map` and `Set.surj_on_of_inj_on_of_ncard_le`. Unfortunately it's not as smooth as it should be, but I think it's better than before. Can you have another look? Thanks!

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 4]
```diff
@@ -310,6 +310,14 @@ theorem mem_nthRootsFinset {n : ℕ} (h : 0 < n) {x : R} :
 @[simp]
 theorem nthRootsFinset_zero : nthRootsFinset 0 R = ∅ := by classical simp [nthRootsFinset_def]
 
+theorem mem_nthRootsFinset_map {S F : Type*} [CommRing S] [IsDomain S] [FunLike F R S]
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Roots.lean:313]: This name suggests the mapping is happening to `nthRootsFinset`. Following [`map_mem_nonZeroDivisors`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/NonZeroDivisors.html#map_mem_nonZeroDivisors) I propose:
```suggestion
theorem map_mem_nthRootsFinset {S F : Type*} [CommRing S] [IsDomain S] [FunLike F R S]
```

**Review by Vierkantor — APPROVED** [review]
That's nicer, thanks! My delegation stands :)

**Comment by riccardobrasca** [comment]
bors merge
